US09447083B2
2-bromopyridin-3-ol (200 mg, 1.15 mmol) and pyrrolidine (184 mg, 2.58 mmol) were added in a reaction tube, followed by reacting in microwave at 120° C. for 20 minutes. The reaction mixture was added with 1 M HCl solution to neutralized, and extracted with ethyl acetate and dichloromethane. The obtained organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The concentrate was purified by column chromatography to obtain 2-(pyrrolidin-1-yl)pyridin-3-ol (78 mg, 41%).

reactant | 2-bromopyridin-3-ol | 1.15 mmol, 200 mg | BrC1=NC=CC=C1O | C5H4BrNO
reactant | pyrrolidine | 2.58 mmol, 184 mg | N1CCCC1 | C4H9N
reactant | HCl | 1 M | Cl | ClH
product | 2-(pyrrolidin-1-yl)pyridin-3-ol | 78 mg, 41% | N1(CCCC1)C1=NC=CC=C1O | C9H12N2O
